US07329427B2
1.03 g (3.0 mmols) of diethyl 5-(RS)-(3-indolylmethyl)-4,5-dihydroisoxazole-3,5-dicarboxylate was dissolved in a mixed solvent of 16 ml of ethanol and 4 ml of water. 290 mg (6.9 mmols) of lithium hydroxide monohydrate was added thereto, and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated to a volume of ⅓ or so under reduced pressure, and 15 ml of water and 1N hydrochloric acid were added to adjust the reaction solution to a pH of from 1 to 2. The resulting solution was extracted three times with 20 ml of ethyl acetate, and the organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The anhydrous magnesium sulfate was removed by filtration, and the filtrate was concentrated under reduced pressure to obtain 5-(RS)-(3-indolylmethyl)-4,5-dihydroisoxazole-3,5-dicarboxylic acid as a light yellow powder.

reactant | diethyl 5-(RS)-(3-indolylmethyl)-4,5-dihydroisoxazole-3,5-dicarboxylate | 3.0 mmols, 1.03 g | N1C=C(C2=CC=CC=C12)CC1(CC(=NO1)C(=O)OCC)C(=O)OCC | C18H20N2O5
reactant | lithium hydroxide monohydrate | 6.9 mmols, 290 mg | O.[OH-].[Li+]
solvent | ethanol | 16 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
product | 5-(RS)-(3-indolylmethyl)-4,5-dihydroisoxazole-3,5-dicarboxylic acid | N1C=C(C2=CC=CC=C12)CC1(CC(=NO1)C(=O)O)C(=O)O | C14H12N2O5
